US07705156B2
cis-2-Chloro-5-(2-methylthiocyclopentyl)pyridine (0.15 g, 0.64 mmol) was dissolved in CH2Cl2 (3 mL) in a 50 mL round bottom flask and treated with cyanamide (0.035 g, 0.83 mmol). The mixture was cooled in an ice bath under nitrogen and treated with iodobenzene diacetate (0.28 g, 0.86 mmol) and allowed to stir for 2 h by which time the reaction was judged complete by TLC (CH2Cl2:MeOH/20:1). The reaction mixture was concentrated to low volume and purified by flash silica gel chromatography (CH2Cl2:MeOH/20:1) to give cis-[2-(6-chloropyridin-3-yl)cyclopentyl](methyl)-λ4-sulfanylidenecyanamide (0.145 g, 85%) as an oily 1:1 mixture of diastereomers: LC/MS (ESI) m/z 267, 1H NMR (300 MHz, CDCl3) δ 8.31 (d, 2H, J=2.7 Hz), 7.70 (dd, 1H, J=8.4, 2.7 Hz), 7.63 (dd, 1H, J=8.4, 2.7 Hz), 7.40 (d, 1H, J=8.4 Hz), 7.32 (d, 1H, J=8.4 Hz), 3.96 (m, 1H), 3.81 (m, 1H), 3.67-3.51 (m, 2H), 2.73 (s, 3H), 2.59 (m, 1H), 2.45 (s, 3H), 2.40-1.95 (m, 9H), 1.85 (m, 2H).

reactant | cis-2-Chloro-5-(2-methylthiocyclopentyl)pyridine | 0.64 mmol, 0.15 g | ClC1=NC=C(C=C1)[C@H]1[C@H](CCC1)SC | C11H14ClNS
reactant | cyanamide | 0.83 mmol, 0.035 g | N#CN | CH2N2
reactant | iodobenzene diacetate | 0.86 mmol, 0.28 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | cis-[2-(6-chloropyridin-3-yl)cyclopentyl](methyl)-λ4-sulfanylidenecyanamide | 0.145 g, 85% | ClC1=CC=C(C=N1)[C@@H]1[C@@H](CCC1)S(=NC#N)C | C12H14ClN3S
